### PR TITLE
[Merged by Bors] - feat: prove Cauchy's upper bound on polynomial roots

### PR DESCRIPTION
**Pull request by Command-Master**
---

- [x] depends on: #16582 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Cauchy.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+open Polynomial Finset
+
+/--
+Cauchy's bound on the roots of a given polynomial.
+-/
+noncomputable def cauchyBound (p : K[X]) : ℝ :=
+  if h : p.natDegree = 0 then
+    0
+  else
+    sup' (range p.natDegree) (by simpa) (fun x ↦ ‖p.coeff x‖) / ‖p.leadingCoeff‖
```
Comment (eric-wieser) [inline Mathlib/Analysis/Cauchy.lean:28]: What are your thoughts on
```suggestion
noncomputable def cauchyBound (p : K[X]) : ℝ≥0 :=
  sup (range p.natDegree) (fun x ↦ ‖p.coeff x‖₊) / ‖p.leadingCoeff‖₊
```
which avoids the `if` and the `sup'`?

Comment (Command-Master) [reply Mathlib/Analysis/Cauchy.lean]: I tried switching to `NNReal`, I think it's an improvement, except for `NNReal.geom_sum`, which should be moved to a different file. Do you know of a good place for it?

File: Mathlib/Analysis/Cauchy.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+/--
+Cauchy's bound on the roots of a given polynomial.
+-/
+noncomputable def cauchyBound (p : K[X]) : ℝ≥0 :=
+  sup (range p.natDegree) (‖p.coeff ·‖₊) / ‖p.leadingCoeff‖₊
+
+lemma NNReal.geom_sum {x : ℝ≥0} (h : 1 < x) (n : ℕ) :
+    ∑ i ∈ Finset.range n, x ^ i = (x ^ n - 1) / (x - 1) := by
+  have : 0 ≠ x - 1 := fun nh ↦ (h.trans_le (tsub_eq_zero_iff_le.mp nh.symm)).false
+  field_simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Cauchy.lean:27]:
```suggestion
  field_simp [(tsub_pos_of_lt h).ne']
```
though I'm not sure it's a good idea to have rigid code after `field_simp`, so alternatively
```suggestion
  apply eq_div_of_mul_eq (tsub_pos_of_lt h).ne'
```

File: Mathlib/Analysis/Cauchy.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
+/-
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Cauchy.lean:1]: This file name seems too generic and the location too high up in the tree as well.

Comment (Command-Master) [reply Mathlib/Analysis/Cauchy.lean:1]: I'll rename it to `CauchyBound`. What would be a good location?

File: Mathlib/Analysis/CauchyBound.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+
+variable {K : Type*} [NormedDivisionRing K]
+
+open Polynomial Finset NNReal
+
+/--
+Cauchy's bound on the roots of a given polynomial.
+-/
+noncomputable def cauchyBound (p : K[X]) : ℝ≥0 :=
+  sup (range p.natDegree) (‖p.coeff ·‖₊) / ‖p.leadingCoeff‖₊
```
Comment (urkud) [inline Mathlib/Analysis/CauchyBound.lean:22]: I think that we usually take sum/sup/... over `Polynomial.support`.

File: Mathlib/Analysis/CauchyBound.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+
+lemma NNReal.geom_sum {x : ℝ≥0} (h : 1 < x) (n : ℕ) :
+    ∑ i ∈ Finset.range n, x ^ i = (x ^ n - 1) / (x - 1) := by
```
Comment (urkud) [inline Mathlib/Analysis/CauchyBound.lean:25]: This should go to `Data/NNReal`

File: Mathlib/Analysis/CauchyBound.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+  apply eq_div_of_mul_eq (tsub_pos_of_lt h).ne'
+  apply eq_tsub_of_add_eq
+  convert geom_sum_mul_add (x - 1) n <;>
+  rw [tsub_add_cancel_of_le h.le]
+
+theorem norm_lt_cauchyBound_add_one_of_isRoot (p : K[X]) (hp : p ≠ 0) (a : K) (h : p.IsRoot a) :
```
Comment (urkud) [inline Mathlib/Analysis/CauchyBound.lean:31]: `Polynomial.IsRoot.norm_lt_cauchyBound_add_one`? Also, I think that the definition of `cauchyBound` should include this `+ 1`. BTW, do I remember correctly that it works for `max 1 (cauchyBound p)`?

Also, please add a version about `Polynomial.aeval`.

File: Mathlib/Analysis/Cauchy.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Cauchy.lean]: Rename `Mathlib/Analysis/SpecialFunctions/Polynomials` to `.../Polynomial/Basic` and move your file to `.../Polynomial/CauchyBound`?

File: Mathlib/Analysis/CauchyBound.lean (hunk 5 above)
Comment (Command-Master) [reply Mathlib/Analysis/CauchyBound.lean:25]: It would be bad to import `Algebra.GeomSum` in `Data.NNReal.Basic`, right? Should I make a new file there for this?

File: Mathlib/Analysis/CauchyBound.lean (hunk 6 above)
Comment (Command-Master) [reply Mathlib/Analysis/CauchyBound.lean:31]: Regarding `aeval` - I discussed this a bit on Zulip at https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/NormedAlgebra.20with.20ring, I'm not sure how to state this in the correct generality for an algebra

Comment (Command-Master) [reply Mathlib/Analysis/CauchyBound.lean:31]: There is Lagrange's bound, which is $\max(1, \sum_{i=0}^{n-1} \left| \frac{a_i}a_n \right|)$ (compared to Cauchy's bound, $1 + \max_{i=0}^{n-1}{\left|\frac{a_i}{a_n} \right|}$.

File: Mathlib/Analysis/Polynomial/CauchyBound.lean [hunk 7]
```diff
@@ -0,0 +1,88 @@
...
+  sup (range p.natDegree) (‖p.coeff ·‖₊) / ‖p.leadingCoeff‖₊
+
+lemma NNReal.geom_sum {x : ℝ≥0} (h : 1 < x) (n : ℕ) :
+    ∑ i ∈ Finset.range n, x ^ i = (x ^ n - 1) / (x - 1) := by
+  apply eq_div_of_mul_eq (tsub_pos_of_lt h).ne'
+  apply eq_tsub_of_add_eq
+  convert geom_sum_mul_add (x - 1) n <;>
+  rw [tsub_add_cancel_of_le h.le]
+
+theorem norm_lt_cauchyBound_add_one_of_isRoot (p : K[X]) (hp : p ≠ 0) (a : K) (h : p.IsRoot a) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Polynomial/CauchyBound.lean:31]: This one might be worth a docstring, since in some since this theorem is stating the above is actually a bound.

File: Mathlib/Analysis/Polynomial/CauchyBound.lean [hunk 8]
```diff
@@ -0,0 +1,88 @@
...
+-/
+
+variable {K : Type*} [NormedDivisionRing K]
+
+open Polynomial Finset NNReal
+
+/--
+Cauchy's bound on the roots of a given polynomial.
+-/
+noncomputable def cauchyBound (p : K[X]) : ℝ≥0 :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/Polynomial/CauchyBound.lean:21]: Perhaps worth having trivial simp lemmas for `0`, `1`, `C`, and `X`? Having one for `smul` might be more interesting too.

Comment (Command-Master) [reply Mathlib/Analysis/Polynomial/CauchyBound.lean:22]: Added

File: Mathlib/Analysis/Polynomial/CauchyBound.lean [hunk 9]
```diff
@@ -0,0 +1,127 @@
...
+    leadingCoeff_smul_of_smul_regular, add_left_inj]
+  apply mul_div_mul_left
+  simpa
+
+lemma NNReal.geom_sum {x : ℝ≥0} (h : 1 < x) (n : ℕ) :
+    ∑ i ∈ Finset.range n, x ^ i = (x ^ n - 1) / (x - 1) := by
+  apply eq_div_of_mul_eq (tsub_pos_of_lt h).ne'
+  apply eq_tsub_of_add_eq
+  convert geom_sum_mul_add (x - 1) n <;>
+  rw [tsub_add_cancel_of_le h.le]
```
Comment (jcommelin) [inline Mathlib/Analysis/Polynomial/CauchyBound.lean:65]: I think this could move to an earlier file. What does `#find_home!` say?

**Review by jcommelin — COMMENTED** [review]
Nice! Thanks for proving this!

File: Mathlib/Analysis/Polynomial/CauchyBound.lean (hunk 9 above)
Comment (Command-Master) [reply Mathlib/Analysis/Polynomial/CauchyBound.lean:65]: It can't find anything, and adding `import Mathlib` it says `Mathlib.Topology.ContinuousMap.StarOrdered`

Comment (jcommelin) [reply Mathlib/Analysis/Polynomial/CauchyBound.lean]: I created a new file with a slight generalization of this result. I took the liberty of pushing directly to your branch.

**Comment by jcommelin** [comment]
maintainer merge

File: Mathlib/Algebra/Order/Nonneg/GeomSum.lean [hunk 10]
```diff
@@ -0,0 +1,28 @@
+/-
+Copyright (c) 2024 Johan Commelin. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Johan Commelin
+-/
+
+import Mathlib.Algebra.Order.Nonneg.Field
+import Mathlib.Algebra.GeomSum
+import Mathlib.Data.Fintype.BigOperators
```
Comment (urkud) [inline Mathlib/Algebra/Order/Nonneg/GeomSum.lean:9]: @jcommelin Could you please write a module docstring for the file you've added?

File: Mathlib/Algebra/Order/Nonneg/GeomSum.lean [hunk 11]
```diff
@@ -0,0 +1,28 @@
...
+
+variable {α : Type*} [LinearOrderedField α]
+
+lemma Nonneg.geom_sum_of_one_lt {a : {x : α // 0 ≤ x}} (h : 1 < a) (n : ℕ) :
+    ∑ i ∈ Finset.range n, a ^ i = (a ^ n - 1) / (a - 1) := by
```
Comment (urkud) [inline Mathlib/Algebra/Order/Nonneg/GeomSum.lean:14]: Is it true in a `LinearOrderedSemifield` + `OrderedSub`? Also, could you please add the `tsub_mul_geom` and `geom_2` versions?

**Comment by jcommelin** [comment]
@Command-Master Would you mind taking up the points that Yury raised? If you don't have time, I'll try to get to it later.

File: Mathlib/Algebra/Order/Nonneg/GeomSum.lean (hunk 11 above)
Comment (Command-Master) [reply Mathlib/Algebra/Order/Nonneg/GeomSum.lean:14]: I'm not sure about a `LinearOrderedSemifield`, but I generalized it to `CanonicallyLinearOrderedSemifield`

Comment (Command-Master) [reply Mathlib/Algebra/Order/Nonneg/GeomSum.lean:14]: I'm not sure if it should remain in `Nonneg` now, though

File: Mathlib/Analysis/Polynomial/CauchyBound.lean [hunk 12]
```diff
@@ -0,0 +1,120 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Daniel Weber
+-/
+import Mathlib.Algebra.Order.Nonneg.GeomSum
+import Mathlib.Algebra.Polynomial.Eval
+import Mathlib.Algebra.Polynomial.Monic
+import Mathlib.Analysis.Normed.Field.Basic
+
+/-!
+# Cauchy's bound on polynomial roots.
```
Comment (urkud) [inline Mathlib/Analysis/Polynomial/CauchyBound.lean:12]: Please write a paragraph or two that mention the main result and the formula for the Cauchy's bound.

File: Mathlib/Analysis/Polynomial/CauchyBound.lean [hunk 13]
```diff
@@ -0,0 +1,120 @@
...
+  simp only [cauchyBound, (isRegular_of_ne_zero hx).left.isSMulRegular,
+    natDegree_smul_of_smul_regular, coeff_smul, smul_eq_mul, nnnorm_mul, ← mul_finset_sup,
+    leadingCoeff_smul_of_smul_regular, add_left_inj]
+  apply mul_div_mul_left
+  simpa
+
+/--
+`cauchyBound` is a bound on the norm of polynomial roots.
+-/
+theorem Polynomial.IsRoot.norm_lt_cauchyBound {p : K[X]} (hp : p ≠ 0) (a : K) (h : p.IsRoot a) :
```
Comment (urkud) [inline Mathlib/Analysis/Polynomial/CauchyBound.lean:63]:
```suggestion
theorem Polynomial.IsRoot.norm_lt_cauchyBound {p : K[X]} (hp : p ≠ 0) {a : K} (h : p.IsRoot a) :
```

**Comment by urkud** [comment]
I'm going to move lemmas from `Nonneg` tonight.

**Review by jcommelin — COMMENTED** [review]
maintainer merge

**Comment by urkud** [comment]
Thanks!
bors d+

**Comment by Command-Master** [comment]
bors merge
